US05049477
Step 1: Synthesis of N-Methyl-N-octadecyl-3-nitro-4-chlorobenzenesulfonamide
In 300 ml of chloroform, 100 g of 4-chloro-3-nitrobenzenesulfonyl chloride was dissolved, and cooled to 0° C. Thereto, a solution of 84.3 g of methyloctadecylamine in chloroform was added dropwise. Then, 39.5 g of triethylamine was added dropwise as the reaction system was kept at a temperature from 0° C. to 10° C. After the conclusion of the addition, the reaction was run for 1 hour. Then, the solvent was distilled away, and the residue was dissolved in 500 ml of methanol under heating. The solution was allowed to stand for a while in order to cool. Thereupon, crystals separated out, and they were filtered off. Yield: 109 g, Percent yield: 71.2%, Melting point: 86°-87° C.

reactant | 4-chloro-3-nitrobenzenesulfonyl chloride | 100 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
reactant | methyloctadecylamine | 84.3 g | CNCCCCCCCCCCCCCCCCCC | C19H41N
reactant | triethylamine | 39.5 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | N-Methyl-N-octadecyl-3-nitro-4-chlorobenzenesulfonamide | yield: 71.2% | CN(S(=O)(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-])CCCCCCCCCCCCCCCCCC | C25H43ClN2O4S
